US04772600
2-(4-Bromophenyl)-N-(2-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
Under a nitrogen atmosphere, oxalyl chloride (3.2 g, 0.025 mole) was added dropwise (slowly) to a stirred and chilled (5°-10° C.) solution of 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (8.0 g, 0.024 mole) in anhydrous dimethylformamide (50 ml). The reaction mixture was heated at 55°-60° C. for 4 hrs, cooled to room temperature, and added dropwise to a stirred and chilled (10°-15° C.) solution of 2-chloroaniline (3.2 g, 0.25 mole) and triethylamine (2.5 g, 0.025 mole) in anhydrous dimethylformamide (100 ml). The reaction mixture was stirred at room temperature overnight, filtered, and poured into water (350 ml). The mixture was allowed to precipitate and filtered. The filter cake was twice suspended in water (250 ml) and filtered. The filter cake was air dried and twice recrystallized from tetrahydrofuran to give 4.22 g, (40%) of a white solid, mp 230.5°-232° C.

reactant | oxalyl chloride | 0.025 mole, 3.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.024 mole, 8.0 g | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10BrN3O2
reactant | 2-chloroaniline | 0.25 mole, 3.2 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | triethylamine | 0.025 mole, 2.5 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(4-Bromophenyl)-N-(2-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 40% | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC1=C(C=CC=C1)Cl | C20H14BrClN4O
